US07338959B2
2-(4-{4-[(2-Isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (54 mg, 0.25 mmol) as a white solid (71 mg, 52%). 1H NMR (300 MHz, d6-DMSO) δ 9.05 (s, 1H), 7.68-7.76 (M, 3H), 7.19 (d, J=8.4 Hz, 1H), 7.08-7.13 (M, 3H), 6.96 (q, J=5.1 Hz, 1H), 6.81 (dd, J=8.1 and 1.8 Hz, 1H), 6.53 (d, J=6.9 Hz, 1H), 5.60 (d, J=5.7 Hz, 1H), 4.04 (m, 1H), 3.51 (s, 3H), 3.42 (s, 3H), 3.21-3.30 (m, 2H), 2.83-2.88 (m, 2H), 2.59 (d, J=5.1 Hz, 3H), 1.23 (d, J=6.6 Hz, 6H) ppm. MS (ESI) m/z=509 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.25 mmol, 54 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-(4-{4-[(2-Isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1 | InChI=1S/C25H32N8O2S.ClH/c1-17(2)28-25-30-21-16-20(10-11-22(21)33(25)5)32(4)23-12-14-27-24(31-23)29-19-8-6-18(7-9-19)13-15-36(34,35)26-3;/h6-12,14,16-17,26H,13,15H2,1-5H3,(H,28,30)(H,27,29,31);1H
